Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Morphine / Ambien
 
Attending: ___.
 
Chief Complaint:
confusion, headache
 
Major Surgical or Invasive Procedure:
___ - lumbar puncture

 
History of Present Illness:
Mr. ___ is a ___ year old male status post liver transplant 
for
hepatitis C cirrhosis and hepatocellular carcinoma whose liver
transplant was complicated by a biliary stricture and recurrent
cirrhosis of the graft ___ HCV and ETOH relapse with chief
complaint of confusion, fatigue and episode yesterday of
"blacking out". Pt was with his wife yesterday at ___ where he was being r/o for an MI. While he was in the 
ER
he c/o loss of vision and feeling as though he was going to 
"pass
out". He stated at that time that he was experiencing headache,
lightheadedness, weakness, blurred vision. Says that he cannot
think straight. He was worked up in the emergency department 
with
CT and MRI which did not show acute finding. The patient was to
be admitted, but because the patient had a remote liver
transplant he could not be admitted to ___ and
refused transport to ___ at that time. Patient was evaluated
by neurology at that time who cleared the patient for discharge
with plan to follow-up as an outpatient.

The patient states that he has been persisting with headache
since yesterday. Describes bifrontal nonradiating sharp pain.
Photophobia. Wife states he has been intermittently confused 
over
the last day since hospital discharge. Had 2 episodes of emesis,
nonbloody nonbilious. One yesterday and one today. Has not been
tolerating p.o.

Was feeling well prior to onset of this headache yesterday.
States no episodes similar to this in the past. No recent
illness. No fevers, chills, chest pain, cough, dyspnea, 
abdominal
pain, diarrhea, dysuria, rash.

On arrival to the floor, patient endorses the story outlined
above. His main concerns currently are his ongoing headache and
forgetfulness. He is quite aware of his forgetfulness, 
struggling
at times to remember his own birthday and the birthday of his
wife. States that he is having intermittent moments of
forgetfulness over the past two days since the onset of his
headache. Oriented to self and location. Knows it is ___ but 
is
uncertain of the year. Unable to name president but keeps
referring to him as "that idiot." Continues to endorse headache,
unchanged from presentation. Has found no relief with any of the
medications we have trialed thus far. Never had a headache like
this in the past. Also endorsing some right sided blurry vision
associated with his headache.

 
Past Medical History:
- Liver transplant for chronic HCV and ___ c/b biliary stricture
and recurrent cirrhosis ___ HCV and ETOH relapse
- Hypertension
 
Social History:
___
Family History:
Non-contributory.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: ___ 0318 Temp: 97.8 PO BP: 176/91 L Lying HR: 73 
RR:
18 O2 sat: 97% O2 delivery: Ra 
GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. 
EXTREMITIES: No clubbing, cyanosis, or edema. 
SKIN: Warm. No rashes.
NEUROLOGIC: AOx2. Unable to name year or president but knows
months. Endorsing intermittent blurry vision in right visual
field of both eyes. EOMI. Moving all 4 limbs spontaneously. ___
strength throughout with intact sensation. 

DISCHARGE EXAM:
===============
VITALS: 24 HR Data (last updated ___ @ 524)
    Temp: 98.4 (Tm 98.4), BP: 145/82 (135-159/77-88), HR: 62 
(56-74), RR: 18, O2 sat: 95% (95-98), O2 delivery: Ra, Wt: 174.4 
lb/79.11 kg   
GENERAL: Lying in bed, tearful, but in no acute distress.
HEENT: Sclera anicteric and without injection. 
CARDIAC: Normal rate and rhythm. No murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or 
rales. No increased work of breathing.
ABDOMEN: Soft, non distended, non-tender 
EXTREMITIES: Warm, no edema.
NEUROLOGIC: AAOx3. Pupils equal and reactive. EOMI. Right 
homonymous hemianopsia. Motor function and sensory function 
grossly intact and symmetric throughout.
 
Pertinent Results:
ADMISSION LABS:
===============
___ 04:49PM   WBC-11.0* RBC-5.75 HGB-18.5* HCT-53.5* MCV-93 
MCH-32.2* MCHC-34.6 RDW-13.0 RDWSD-43.8
___ 04:49PM   PLT COUNT-187
___ 04:49PM   NEUTS-78.1* LYMPHS-16.0* MONOS-5.2 EOS-0.0* 
BASOS-0.2 IM ___ AbsNeut-8.58* AbsLymp-1.76 AbsMono-0.57 
AbsEos-0.00* AbsBaso-0.02
___ 04:49PM   GLUCOSE-173* UREA N-19 CREAT-1.3* SODIUM-134* 
POTASSIUM-4.9 CHLORIDE-100 TOTAL CO2-18* ANION GAP-16
___ 04:49PM   ALT(SGPT)-16 AST(SGOT)-18 ALK PHOS-111 TOT 
BILI-2.0*
___ 04:49PM   ALBUMIN-4.8
___ 04:49PM   LIPASE-53
___ 08:22PM   ___ PTT-29.5 ___
___ 04:51PM   LACTATE-2.0

PERTINENT LABS:
===============
___ 09:05AM BLOOD %HbA1c-6.7* eAG-146*
___ 09:05AM BLOOD Triglyc-151* HDL-37* CHOL/HD-6.0 
LDLcalc-156*
___ 04:28AM BLOOD VitB12-354
___ 09:05AM BLOOD Ammonia-<10
___ 09:05AM BLOOD TSH-1.7
___ 09:05AM BLOOD HIV Ab-NEG
___ 04:20AM BLOOD tacroFK-2.4*
___ 01:30PM BLOOD CMV VL-NOT DETECT

DISCHARGE LABS:
===============
___ 04:29AM BLOOD WBC-5.5 RBC-4.71 Hgb-15.2 Hct-43.9 MCV-93 
MCH-32.3* MCHC-34.6 RDW-12.9 RDWSD-43.8 Plt ___
___ 04:29AM BLOOD ___ PTT-27.8 ___
___ 04:29AM BLOOD Glucose-138* UreaN-17 Creat-1.1 Na-139 
K-4.2 Cl-103 HCO3-25 AnGap-11
___ 04:29AM BLOOD ALT-27 AST-28 LD(LDH)-166 AlkPhos-87 
TotBili-0.8
___ 04:29AM BLOOD Calcium-8.7 Phos-3.1 Mg-1.9
___ 05:13PM CEREBROSPINAL FLUID (CSF) TNC-1222* HCT,Fl-44* 
Polys-64 ___ ___ 05:13PM CEREBROSPINAL FLUID (CSF) TotProt-7250* 
Glucose-158 LD(LDH)-487

IMAGING:
========
CT ABD & PELVIS WITH CONTRAST Study Date of ___ 
IMPRESSION: 
1. No acute process within the abdomen or pelvis to explain the 
patient's 
symptoms. 
2. Mild focal stenosis of the proximal celiac trunk. 

CT HEAD W/O CONTRAST Study Date of ___
IMPRESSION:  
No acute intracranial process. 

LIVER OR GALLBLADDER US (SINGLE ORGAN) Study Date of ___  

IMPRESSION: 
1. New high resistance pattern in the hepatic arteries without 
definite 
antegrade diastolic flow is nonspecific but can be seen in 
rejection. 
2. Patent hepatic vasculature elsewhere with appropriate 
waveforms. 
3. No ascites, pleural effusion, sub or perihepatic fluid 
collections. 

MR HEAD W & W/O CONTRAST Study Date of ___
IMPRESSION: 
1. Large left PCA territory acute infarct.  No hemorrhage. 
2. Abrupt occlusion left PCA at P1-P2 junction. 
3. Remainder of the brain MRA is normal.. 
4. Unremarkable MRA neck. 

Transthoracic Echocardiogram Report ___
IMPRESSION: Mild symmetric left ventricular hypertrophy with 
normal cavity size and regional/global biventricular systolic 
function. Mildly dilated aortic sinuses. Compared with the prior 
TTE (images not available for review) of ___, the 
findings are similar.

MICROBIOLOGY:
=============
Herpes Simplex Virus, PCR, CSF -- Negative
__________________________________________________________
___ 5:13 pm CSF;SPINAL FLUID      Source: LP. 

   Enterovirus Culture (Preliminary):    No Enterovirus 
isolated. 
__________________________________________________________
___ 5:13 pm CSF;SPINAL FLUID      Source: LP. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Final ___:    NO GROWTH. 

   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 
__________________________________________________________
___ 5:13 pm CSF;SPINAL FLUID      Source: LP. 

                            **FINAL REPORT ___

   CRYPTOCOCCAL ANTIGEN (Final ___: 
      CRYPTOCOCCAL ANTIGEN NOT DETECTED. 
           (Reference Range-Negative). 
      Test performed by Lateral Flow Assay. 
      Results should be evaluated in light of culture results 
and clinical
      presentation. 
__________________________________________________________
___ 11:57 am BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 11:59 am BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 12:27 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    < 10,000 CFU/mL. 

 
Brief Hospital Course:
Mr. ___ is a ___ year old male status post liver transplant 
for hepatitis C cirrhosis and hepatocellular carcinoma whose 
liver transplant was complicated by a biliary stricture and 
recurrent cirrhosis of the graft ___ HCV and ETOH relapse with 
chief complaint of confusion and headache, now found to have 
acute left
PCA infarct

TRANSITIONAL ISSUES:
====================
[ ] Discharged with Zio patch for evaluation of paroxysmal 
atrial fibrillation as etiology of acute stroke. If no evidence 
of atrial fibrillation is detected, further long-term monitoring 
may be clinically indicated.

[ ] RUQ ultrasound this admission revealed nonspecific new high 
resistance pattern in the hepatic arteries without definite 
antegrade diastolic flow. Patient is scheduled for repeat 
ultrasound on ___.

[ ] Needs tacrolimus level checked once per month

[ ] Goal LDL<70 post-stroke. Lipid panel should be checked ~3 
months after discharge to assess response to atorvastatin.

[ ] f/u BP with goal SBP < 140.

ACUTE/ACTIVE ISSUES:
====================
#Acute left PCA ischemic stroke
#Right homonymous hemianopsia
#Acute encephalopathy
Patient presented with ongoing confusion for a few days prior to 
admission, and a brief episode of
"blacking out", which likely represents a TIA. CT and MRI at 
outside hospital prior to admission were negative for acute 
pathology. He was quite aware of the confusion, commenting on 
his own deficits in his memory including difficulty with 
remembering his wife's birthday. He was oriented x2, unable to 
remember the year. Initial concern for possible encephalitis. LP 
was performed but returned frank blood, likely from epidural 
vessel. Patient reported vision disturbances and was found to 
have right homonymous hemianopsia. Repeat MRI/MRA of the brain 
revealed acute ischemic PCA infarct. Patient was started on ASA 
81mg and high-intensity atorvastatin. TTE did not show evidence 
of PFO. Patient did not exhibit any atrial fibrillation on 
telemetry, but was discharged with continuous monitoring for 
further evaluation.

#Headache
Patient presented with headache. Likely not secondary to acute 
stroke, as would be unusual. ___ be secondary to hypertension 
and tension/stress. Improved with reducing blood pressure and 
symptomatic therapy.

#Post-LP hematoma, stable
Patient developed post-procedural hematoma at entry site. Mildly 
TTP but otherwise did not exhibit any infectious signs. No 
neurological changes associated with post-procedural course, no 
progression in
pain. Managed supportively. 

#Hyponatremia
Mild hyponatremia on admission to 133 in setting of poor PO 
intake. Resolved with IVF.

#Liver transplant for chronic HCV and ___ c/b recurrent 
cirrhosis ___ HCV and ETOH relapse. CMV serology positive, VL 
negative. Patient was continued on home tacrolimus. Serus 
tacrolimus levels were stable and therapeutic throughout 
admission.

CHRONIC/STABLE ISSUES:
======================
#Hypertension
Continued home lisinopril. Started amlodipine 5mg daily given 
persistently elevated BP.

#CHRONIC HBV
Continued home lamivudine

#GERD
Continued home omeprazole
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LamiVUDine 100 mg PO DAILY 
2. OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN Pain - Moderate 

3. Lisinopril 5 mg PO DAILY 
4. Tacrolimus 1 mg PO Q12H 
5. Omeprazole 20 mg PO DAILY 
6. Docusate Sodium 100 mg PO BID 

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY  
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 80 mg PO QPM  
4.  Docusate Sodium 100 mg PO BID  
5.  LamiVUDine 100 mg PO DAILY  
6.  Lisinopril 5 mg PO DAILY  
7.  Omeprazole 20 mg PO DAILY  
8.  OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN Pain - 
Moderate  
9.  Tacrolimus 1 mg PO Q12H  

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
___)
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
-Acute left PCA ischemic stroke complicated by right homonymous 
hemianopsia
-Acute encephalopathy

SECONDARY DIAGNOSES:
-s/p liver transplant for chronic HCV and ___ c/b recurrent 
cirrhosis of graft
-Post-LP hematoma
-Headache
-Hyponatremia
-Chronic HBV
-Hypertension
-GERD

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr ___,

___ were admitted to the hospital because ___ had some confusion 
and a headache, and were found to have a stroke.

WHAT HAPPENED WHILE ___ WERE IN THE HOSPITAL?
-___ had an MRI which showed ___ had a stroke. ___ were started 
on medication including aspirin and atorvastatin to help reduce 
your risk of stroke.
-___ had an echocardiogram (ultrasound of your heart) which 
showed your heart is normal
-___ had a lumbar puncture (spinal tap) which did not show any 
evidence of infection. 

WHAT DO ___ NEED TO DO WHEN ___ LEAVE THE HOSPITAL?
-___ should stop smoking, because it will significantly reduce 
your risk of another stroke.
-___ will be wearing a Zio patch heart monitor for at least 2 
weeks to monitor your heart for any abnormal rhythms.
-Please take all of your medications as prescribed (listed 
below)
-Keep your follow up appointments with your doctors. ___ will 
need to schedule an appointment with your primary care doctor 
once ___ leave rehab.
-Weigh yourself every morning, before ___ eat or take your 
medications. Call your doctor if your weight changes by more 
than 3 pounds
-Please stick to a low salt diet and monitor your fluid intake
-If ___ experience any of the danger signs listed below please 
call your primary care doctor or come to the emergency 
department immediately.

It was a pleasure participating in your care. We wish ___ the 
best!
- Your ___ Care Team

 
Followup Instructions:
___